US08314091B2
C: 3-((4-(4-Amino-3-fluorobenzoyl)piperazin-1-yl)methyl)-N-cyclobutylbenzamide
To a solution of N-cyclobutyl-3-(piperazin-1-ylmethyl)benzamide (8.78 mmol, 2.4 g), 4-amino-3-fluorobenzoic acid (8.78 mmol, 1.362 g) and triethylamine (26.3 mmol, 3.67 mL, 2.67 g) in dichloromethane (50 mL) was added 1-propanephosphonic acid cyclic anhydride (13.17 mmol, 7.84 mL, 8.38 g, 50% solution in ethyl acetate). The reaction was stirred for 1 hour then was diluted with ethyl acetate/sodium hydrogen carbonate (aqueous). The organic layer was separated, dried (magnesium sulfate) and concentrated under reduced pressure to give the title compound (2.4 g).

reactant | N-cyclobutyl-3-(piperazin-1-ylmethyl)benzamide | 8.78 mmol, 2.4 g | C1(CCC1)NC(C1=CC(=CC=C1)CN1CCNCC1)=O | C16H23N3O
reactant | 4-amino-3-fluorobenzoic acid | 8.78 mmol, 1.362 g | NC1=C(C=C(C(=O)O)C=C1)F | C7H6FNO2
reactant | triethylamine | 26.3 mmol, 3.67 mL, 2.67 g | C(C)N(CC)CC | C6H15N
reactant | 1-propanephosphonic acid cyclic anhydride | 13.17 mmol, 7.84 mL, 8.38 g | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | ethyl acetate sodium hydrogen carbonate | C(C)(=O)OCC.C(O)([O-])=O.[Na+]
product | 3-((4-(4-Amino-3-fluorobenzoyl)piperazin-1-yl)methyl)-N-cyclobutylbenzamide | 2.4 g | NC1=C(C=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC3CCC3)C=CC2)C=C1)F | C23H27FN4O2
